US08541595B2
Step 2, Example VIII-2: 2-(1-{3-[5-(4-chlorophenyl)-5H-imidazo[2,1-a]isoindol-5-yl]propanoyl}piperidin-4-yl)propan-2-ol
To a solution of 1-(1-{3-[5-(4-chlorophenyl)-5H-imidazo[2,1-a]isoindol-5-yl]propanoyl}piperidin-4-yl)ethanone (25 mg) in THF (0.8 mL) at −78° C. was added a solution of MeMgBr (0.028 mL, 3 M in ether). The cooling bath was then removed and the reaction mixture was stirred at room temperature for 30 minutes. It was then cooled back to −78° C., 0.15 mL more Grignard solution added, cooling bath removed and was stirred at room temperature for 20 minutes. Reaction was quenched with saturated aqueous NH4Cl, partitioned between saturated aqueous NH4Cl and CH2Cl2. Aqueous layer was extracted with CH2Cl2 (2×). Combined organic layers were dried over Na2SO4 and concentrated. Purification by reversed phase HPLC (21×100 mm Phenomenex Gemini, 15-75% MeCN/water containing 0.05% NH4OH over 20 min at 20 mL/min) afforded title compound as a white solid. HRMS. Found, 464.2099; calcd for (M+H)+, 464.2099. 1H NMR (500 MHz, CDCl3): δ 7.86 (d, J=7.58 Hz, 1 H); 7.43-7.38 (m, 1 H); 7.36-7.26 (m, 4 H); 7.25-7.19 (m, 1 H); 7.11 (d, J=8.54 Hz, 2 H); 6.96 (d, J=9.11 Hz, 1 H); 4.59 (d, J=13.19 Hz, 1 H); 3.34 (d, J=13.18 Hz, 1 H); 3.12-3.04 (m, 1 H); 2.89-2.82 (m, 1 H); 2.68-2.59 (m, 1 H); 2.36-2.29 (m, 1 H); 1.71-1.55 (m, 3 H); 1.41-1.34 (m, 1 H); 1.16-1.10 (m, 6 H); 1.09-0.92 (m, 1 H); 0.93-0.83 (m, 1 H).

reactant | 1-(1-{3-[5-(4-chlorophenyl)-5H-imidazo[2,1-a]isoindol-5-yl]propanoyl}piperidin-4-yl)ethanone | 25 mg | ClC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=NC=C2)CCC(=O)N2CCC(CC2)C(C)=O | C26H26ClN3O2
reactant | MeMgBr | 3 M, 0.028 mL | C[Mg+].[Br-]
solvent | THF | 0.8 mL | C1CCOC1 | C4H8O
product | 2-(1-{3-[5-(4-chlorophenyl)-5H-imidazo[2,1-a]isoindol-5-yl]propanoyl}piperidin-4-yl)propan-2-ol | ClC1=CC=C(C=C1)C1(N2C(C3=CC=CC=C13)=NC=C2)CCC(=O)N2CCC(CC2)C(C)(C)O | C27H30ClN3O2
